US04076732
Preparation α-(6-carbethoxyhexyl)-α-(1-ethoxyethoxy)-α-(2-furyl)acetonitrile
To a stirred solution of 84 ml of diisopropylamine in 280 ml of dry tetrahydrofuran (THF) is added 260 ml of 2.3M n-butyllithium in hexane during 30 min. at 0°-5° C. After stirring for 25 min. at -5° C. the solution is cooled to -75° C. and treated with a solution of 113g (0.58 mol) of 1-ethoxyethyl ether of furfural cyanohydrin (Example 1) in 115 ml of hexamethylphosphoric triamide during 45 min. at -75° to -65° C. After stirring for 25 min. at -75° C. the solution is treated with 136g (0.576 mol) of ethyl 7-bromoheptanoate during 40 min. -75° to -65° C. After slow addition of 280 ml of TMF as rinse the mixture is stirred at -75° C. for 2.5 hr. and at ambient temperature for 18 hr. The reaction mixture is partitioned with water and ether. The ether phase is washed with brine, dried over sodium sulfate, filtered through Celite, and concentrated.

reactant | diisopropylamine | 84 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.3M, 260 ml | C(CCC)[Li]
reactant | 1-ethoxyethyl ether | C(C)OC(C)OC(C)OCC | C8H18O3
reactant | ethyl 7-bromoheptanoate | BrCCCCCCC(=O)OCC | C9H17BrO2
reactant | tetrahydrofuran | 280 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | hexamethylphosphoric triamide | 115 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | α-(6-carbethoxyhexyl)-α-(1-ethoxyethoxy)-α-(2-furyl)acetonitrile | C(=O)(OCC)CCCCCCC(C#N)(C=1OC=CC1)OC(C)OCC | C19H29NO5
